Mixed IO types with conversion of Pspice nand and divider.
* This circuit contains a mixture of IO types, including  
* analog, digital, user-defined (real), and 'null'. 
*  
* The circuit demonstrates the use of the digital and 
* user-defined node capability to model system-level designs 
* such as sampled-data filters. The simulated circuit 
* contains a digital oscillator enabled after 100us. The 
* square wave oscillator output is divided by 8 with a 
* ripple counter. The result is passed through a digital 
* filter to convert it to a sine wave. 
* 
.tran 1e-5 1e-3 
.save all
* 
v1 1 0 0.0 pulse(0 1 1e-4 1e-6 1e-6 1e-4 2e-4)
r1 1 0 1k 
* 
abridge1 [1] [enable] atod 
.model atod adc_bridge 
* 
.SUBCKT NAND2 D0A D0B Q0BAR
+ OPTIONAL: DPWR=$G_DPWR DGND=$D_DGND
+ PARAMS: MNTYMXDLY=0 IO_LEVEL=0
U1 NAND(2) DPWR DGND
+ D0A D0B Q0BAR
+ DLY_XYZ IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.MODEL DLY_XYZ UGATE (TPLHMN=8US TPLHTY=10US TPLHMX=15US
+                     TPHLMN=8US TPHLTY=10US TPHLMX=15US)
.ENDS NAND2
*
x2000 enable clk clk nand2
*
*** subckt nand2 replaces these
*** aclk [enable clk] clk nand 
*** .model nand d_nand (rise_delay=1e-5 fall_delay=1e-5) 
* 
.subckt DIVIDER8 clock DIV8_O DIV4_O DIV2_O
+     OPTIONAL:  DPWR=$G_DPWR DGND=$G_DGND
+     PARAMS:  MNTYMXDLY=0 IO_LEVEL=0
U1 DFF(1) DPWR DGND
+     $D_HI $D_HI clock DIV2_O $D_NC DIV2_O
+ D0_EFF IO_STD IO_LEVEL=0 MNTYMXDLY=2
U2 DFF(1) DPWR DGND
+     $D_HI $D_HI DIV2_O DIV4_O $D_NC DIV4_O
+ D0_EFF IO_STD IO_LEVEL=0 MNTYMXDLY=2
U3 DFF(1) DPWR DGND
+     $D_HI $D_HI DIV4_O DIV8_O $D_NC DIV8_O
+ D0_EFF IO_STD IO_LEVEL=0 MNTYMXDLY=2
.MODEL D0_EFF UEFF ()
.ENDS DIVIDER8
*
x1000 clk div8_out div4_out div2_out divider8
*
*** subckt divider8 replaces these
*** adiv2 div2_out clk NULL NULL NULL div2_out dff 
*** adiv4 div4_out div2_out NULL NULL NULL div4_out dff
*** adiv8 div8_out div4_out NULL NULL NULL div8_out dff 
*** .model dff d_dff 
* 
abridge2 div8_out enable filt_in node_bridge2 
.model node_bridge2 d_to_real (zero=-1 one=1) 
* 
xfilter filt_in clk filt_out dig_filter 
* 
abridge3 filt_out a_out node_bridge3 
.model node_bridge3 real_to_v 
* 
rlpf1 a_out oa_minus 10k 
* 
xlpf 0 oa_minus lpf_out opamp 
* 
rlpf2 oa_minus lpf_out 10k 
clpf lpf_out oa_minus 0.01uF 
* 
* 
.subckt dig_filter filt_in clk filt_out 
* 
.model n0 real_gain (gain=1.0) 
.model n1 real_gain (gain=2.0) 
.model n2 real_gain (gain=1.0) 
.model g1 real_gain (gain=0.125) 
.model zm1 real_delay 
.model d0a real_gain (gain=-0.75) 
.model d1a real_gain (gain=0.5625) 
.model d0b real_gain (gain=-0.3438) 
.model d1b real_gain (gain=1.0) 
* 
an0a filt_in x0a n0 
an1a filt_in x1a n1 
an2a filt_in x2a n2 
* 
az0a x0a clk x1a zm1 
az1a x1a clk x2a zm1 
* 
ad0a x2a x0a d0a 
ad1a x2a x1a d1a 
* 
az2a x2a filt1_out g1 
az3a filt1_out clk filt2_in zm1 
* 
an0b filt2_in x0b n0 
an1b filt2_in x1b n1 
an2b filt2_in x2b n2 
*
az0b x0b clk x1b zm1 
az1b x1b clk x2b zm1 
* 
ad0 x2b x0b d0b 
ad1 x2b x1b d1b 
* 
az2b x2b clk filt_out zm1 
* 
.ends dig_filter 
* 
* 
.subckt opamp plus minus out 
* 
r1 plus minus 300k 
a1 %vd (plus minus) outint lim 
.model lim limit (out_lower_limit = -12 out_upper_limit = 12 
+ fraction = true limit_range = 0.2 gain=300e3) 
r3 outint out 50.0 
r2 out 0 1e12 
* 
.ends opamp
*  
.control
run
plot lpf_out v(a_out)
plot v(xlpf.outint)
*eprint xfilter.x1a
eprint div8_out
.endc
*
.end
